US07297816B2
(S)-2-[2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-chloro-benzoylamino]-3-(3-bromo-4-fluoro-phenyl)-propionic acid methyl ester
The title compound was prepared from 3-bromo-4-fluoro-L-phenylalanine methyl ester hydrochloride and 2-(benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-chloro-benzoic acid as in Example 1, Part C. HPLC: RT=10.36 min. MS (ESI−): mass calcd. for C23H17BrClFN4O5S2, 627.89; m/z found, 625/627 [M−H]−. 1H NMR (400 MHz, CDCl3): 11.46 (s, 1H), 8.37 (dd, J=7.0, 0.8, 1H), 8.22 (dd, J=8.8, 0.9, 1H), 7.75-7.68 (m, 2H), 7.32-7.14 (m, 2H), 7.09-6.88 (m, 3H), 6.53 (d, J=6.8, 1H), 4.98-4.90 (m, 1H), 3.82 (s, 3H), 3.24-3.10 (m, 2H).

reactant | 3-bromo-4-fluoro-L-phenylalanine methyl ester hydrochloride | Cl.COC([C@@H](N)CC1=CC(=C(C=C1)F)Br)=O
reactant | 2-(benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-chloro-benzoic acid | N1=C2C(=NS1)C(=CC=C2)S(=O)(=O)NC2=C(C(=O)O)C=CC(=C2)Cl | C13H8ClN3O4S2
product | (S)-2-[2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-4-chloro-benzoylamino]-3-(3-bromo-4-fluoro-phenyl)-propionic acid methyl ester | COC([C@H](CC1=CC(=C(C=C1)F)Br)NC(C1=C(C=C(C=C1)Cl)NS(=O)(=O)C1=CC=CC=2C1=NSN2)=O)=O | C23H17BrClFN4O5S2
